US07517905B2
Preparation of N-[(3-benzyl-3-azabicyclo[3.1.0]hex-6-yl carbamoyl)-methyl]-3-(2-hydroxy-5-methylphenyl)-3-phenyl-propionamide (Compound No. 9)
The compound, 3-(2-hydroxy-5-methylphenyl)-3-phenyl propionic acid (198 mg, 0.77 mmole, 1 eq) and 2-amino-N-(3-benzyl-3-azabicyclo[3.1.0]hex-6-yl)-acetamide, 200 mg, 0.179 mmole, 1 eq prepared by reacting t-butoxy carbonylamino-acetic acid with 3-benzyl-3-azabicylo[3.1.0]hex-6-yl amine, which in turn, was prepared following the procedure of T. F. Braish et al., Synlett, 1996, 1100) were dissolved in dimethylformamide (3 ml). The reaction mixture was cooled to 0° C. with subsequent addition of N-methyl morpholine (2.31 mmole, 3 eq) and HOBT (0.77 mmole, 1 eq). The resulting reaction mixture was stirred for 1 hour at the same temperature and then at room temperature. The reaction mixture was diluted with water and extracted the organic compound with ethyl acetate. The solvent was removed under reduced pressure and dried. The crude compound was purified by column chromatography using ethyl acetate, methanol and dichloromethane solvent system.

reactant | 3-(2-hydroxy-5-methylphenyl)-3-phenyl propionic acid | 0.77 mmole, 198 mg, 1 eq | OC1=C(C=C(C=C1)C)C(CC(=O)O)C1=CC=CC=C1 | C16H16O3
reactant | 2-amino-N-(3-benzyl-3-azabicyclo[3.1.0]hex-6-yl)-acetamide | NCC(=O)NC1C2CN(CC12)CC1=CC=CC=C1 | C14H19N3O
reactant | t-butoxy carbonylamino-acetic acid | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 3-benzyl-3-azabicylo[3.1.0]hex-6-yl amine | C(C1=CC=CC=C1)N1CC2C(C2C1)N | C12H16N2
reactant | N-methyl morpholine | 2.31 mmole, 3 eq | CN1CCOCC1 | C5H11NO
reactant | HOBT | 0.77 mmole, 1 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[(3-benzyl-3-azabicyclo[3.1.0]hex-6-yl carbamoyl)-methyl]-3-(2-hydroxy-5-methylphenyl)-3-phenyl-propionamide | C(C1=CC=CC=C1)N1CC2C(C2C1)NC(=O)CNC(CC(C1=CC=CC=C1)C1=C(C=CC(=C1)C)O)=O | C30H33N3O3
